US09193693B2
Step 1. Methyl 3-(isopropyl(methyl)amino)-2-phenylquinoxaline-6-carboxylate
Into a 8-mL sealed tube, was placed a solution of methyl 3-bromo-2-phenylquinoxaline-6-carboxylate (170 mg, 0.50 mmol, 1.00 equiv) in N,N-dimethylformamide (5 mL), N-methylpropan-2-amine (73 mg, 1.00 mmol, 2.00 equiv), and potassium carbonate (207 mg, 1.50 mmol, 3.00 equiv). The resulting solution was stirred overnight at 100° C. The reaction was then quenched by the addition of water. The resulting solids were collected by filtration. This resulted in 109.8 mg (59%) of methyl 3-(isopropyl(methyl)amino)-2-phenylquinoxaline-6-carboxylate as a yellow solid.

reactant | methyl 3-bromo-2-phenylquinoxaline-6-carboxylate | 0.50 mmol, 170 mg, 1.00 equiv | BrC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H11BrN2O2
reactant | N-methylpropan-2-amine | 1.00 mmol, 73 mg, 2.00 equiv | CNC(C)C | C4H11N
reactant | potassium carbonate | 1.50 mmol, 207 mg, 3.00 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | Methyl 3-(isopropyl(methyl)amino)-2-phenylquinoxaline-6-carboxylate | C(C)(C)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1)C | C20H21N3O2
